US05486525
A solution under N2 of 6-(4-fluorophenyl)indole (10.0 g, 47.4 mmol), prepared as described in WO 93/01813, in dioxane (36 mL) and pyridine (5.8 mL, 71.8 mmol) was heated to 60° C. and a solution of chloroacetyl chloride (5.7 mL, 71.1 mmol) in dioxane (12.5 mL) was added dropwise over 1 hour. The reaction mixture was stirred for 1 hour at 60° C., then cooled to ambient temperature and poured into a mixture of H2O (200 mL) and ether (50 mL). The resulting orange precipitate was filtered and dried. Recrystallization from ethanol, followed by rinsing with cold ether gave 1-chloro-2-[6-(4-fluorophenyl)indol-3-yl]ethanone (2.8 g) as an orange solid.

reactant | 6-(4-fluorophenyl)indole | 47.4 mmol, 10.0 g | FC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C14H10FN
reactant | pyridine | 71.8 mmol, 5.8 mL | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 71.1 mmol, 5.7 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | H2O | 200 mL | O | H2O
solvent | dioxane | 36 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 12.5 mL | O1CCOCC1 | C4H8O2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 1-chloro-2-[6-(4-fluorophenyl)indol-3-yl]ethanone | 2.8 g | ClC(CC1=CNC2=CC(=CC=C12)C1=CC=C(C=C1)F)=O | C16H11ClFNO
